US08470841B2
58b N-{3-[4-(6-Isopropoxy-pyridin-3-yloxy)-phenyl]-1-methyl-propyl}-N-methyl-acetamide
{3-[4-(6-Isopropoxy-pyridin-3-yloxy)-phenyl]-1-methyl-propyl}-methyl-amine trifluoroacetate (27 mg, 0.086 mmol) was reacted with acetic anhydride in analogy to example 2a. M+H+: 357.2.

reactant | {3-[4-(6-Isopropoxy-pyridin-3-yloxy)-phenyl]-1-methyl-propyl}-methyl-amine trifluoroacetate | 0.086 mmol, 27 mg | FC(C(=O)O)(F)F.C(C)(C)OC1=CC=C(C=N1)OC1=CC=C(C=C1)CCC(C)NC
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-{3-[4-(6-Isopropoxy-pyridin-3-yloxy)-phenyl]-1-methyl-propyl}-N-methyl-acetamide | C(C)(C)OC1=CC=C(C=N1)OC1=CC=C(C=C1)CCC(C)N(C(C)=O)C | C21H28N2O3
